US08686048B2
Intermediate 16: 2′-fluoro-3-(trifluoromethoxy)biphenyl-4-amine
The title compound (0.294 g) was prepared from 2-trifluoromethoxy-4-bromo aniline (0.5 g, 1.9 mmol) and 2-fluorophenylboronic acid (0.345 g, 2.5 mmol) as a yellow liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.47 (td, J 1.2, 4.7, 1H), 7.33-7.20 (m, 5H), 6.89 (d, J 8.8, 1H), 5.62 (s, 2H).

reactant | 2-trifluoromethoxy-4-bromo aniline | 1.9 mmol, 0.5 g | FC(OC1=C(N)C=CC(=C1)Br)(F)F | C7H5BrF3NO
reactant | 2-fluorophenylboronic acid | 2.5 mmol, 0.345 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 2′-fluoro-3-(trifluoromethoxy)biphenyl-4-amine | 0.294 g | FC1=C(C=CC=C1)C1=CC(=C(C=C1)N)OC(F)(F)F | C13H9F4NO
